US05409928
Preparation of 3-(4-benzylphenyl)-7-hydroxypyrazolo[1,5-a]pyrimidine
A mixture of 3-(4-benzylphenyl)-6-carboxy-7-hydroxypyrazolo[1,5-a]pyrimidine (1.24 g) and aniline (11 ml) was stirred at 100° C. to 110° C. for 7 hours, and ice-water was put into the reaction mixture. After adding hydrochloric acid to adjust to acid, the reaction mixture was stirred at 0° C. for 1 hour. The precipitate was separated by filtration, washed with methanol-water (1:3)(50 ml), and dried to give the title compound (0.90 g).

reactant | 3-(4-benzylphenyl)-6-carboxy-7-hydroxypyrazolo[1,5-a]pyrimidine | 1.24 g | C(C1=CC=CC=C1)C1=CC=C(C=C1)C=1C=NN2C1N=CC(=C2O)C(=O)O | C20H15N3O3
reactant | aniline | 11 ml | NC1=CC=CC=C1 | C6H7N
reactant | hydrochloric acid | Cl | ClH
product | 3-(4-benzylphenyl)-7-hydroxypyrazolo[1,5-a]pyrimidine | 0.90 g | C(C1=CC=CC=C1)C1=CC=C(C=C1)C=1C=NN2C1N=CC=C2O | C19H15N3O
